US07855290B2
[4-(2-Fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester
A crude product of [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester (1.617 g) was dissolved in N,N-dimethylformamide (25 ml). 1-(4-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid (1.26 g), triethylamine (0.786 ml) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (2.49 g) were added thereto under a nitrogen atmosphere at room temperature, followed by stirring overnight. Liquid-liquid separation was carried out after addition of ethyl acetate and water to the reaction mixture. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (3 times) and brine in this order and dried over anhydrous sodium sulfate. The solvent was removed to give residue, which was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=1:1) to provide the titled compound as white powder (1.007 g).

reactant | [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester | 1.617 g | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)OC1=C(C=C(C=C1)N)F)=O | C25H18FN3O5
reactant | 1-(4-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid | 1.26 g | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | triethylamine | 0.786 ml | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 2.49 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | [4-(2-Fluoro-4-{[1-(4-fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester | 1.007 g | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O)F)=O | C36H26F2N4O7
